US08030499B2
Step 103-1: Synthesis of 5-chloro-3-hydroxy-3-(2-methoxy-5-methylphenyl)-1,3-dihydro-2H-indol-2-one
With 4.36 g of 3-bromo-4-methoxy toluene and 2.81 g of 5-chloroisatin as starting materials, 4.27 g of the title compound (light brown solid) was obtained by a similar method to Step 21-1.

reactant | 3-bromo-4-methoxy toluene | 4.36 g | BrC=1C=C(C=CC1OC)C | C8H9BrO
reactant | 5-chloroisatin | 2.81 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
product | 5-chloro-3-hydroxy-3-(2-methoxy-5-methylphenyl)-1,3-dihydro-2H-indol-2-one | 4.27 g | ClC=1C=C2C(C(NC2=CC1)=O)(C1=C(C=CC(=C1)C)OC)O | C16H14ClNO3
